US05274143
In a flame-dried flask under N2 a mixture of 336 mg (5.14 mmol) zinc and 510 mg (0.99 mmol) (R)-3-[(2-bromo-1-oxooctyl)oxy]tetradecanoic acid phenyl ester in 5.0 mL 20% v:v Et2O:chlorotrimethylsilane was heated at reflux with rapid stirring for 20 minutes. The mixture was cooled to room temperature and suction filtered through a coarse fritted funnel, using a pad of celite, and washing with 5 mL Et2O. The homogenous filtrate was cooled in an ice/H2O bath and 5 mL tap H2O was added with stirring. After 10 min, the mixture was poured into 50 mL tap H2O and extraction with 3×25 mL Et2O was performed. The combined organic layers were washed with 25 mL brine and dried over MgSO4. The Et2O was removed by rotary evaporation, giving a white solid. The solid was stirred with 6.0 mL hexanes for 30 min, followed by suction filtration through a medium fritted funnel. The product was washed with 2.0 mL hexanes and dried under 26" vacuum at room temperature for 1.5 h, giving 235 mg (67%) (R)-3-hexyl-5,6-dihydro-4-hydroxy-6-undecyl-2H-pyran-2-one as a white powder, mp=109°-111° C.; [α]20D=-43.5° (1% in dioxane).

reactant | (R)-3-[(2-bromo-1-oxooctyl)oxy]tetradecanoic acid phenyl ester | 0.99 mmol, 510 mg | C1(=CC=CC=C1)OC(C[C@@H](CCCCCCCCCCC)OC(C(CCCCCC)Br)=O)=O | C28H45BrO4
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
catalyst | zinc | 5.14 mmol, 336 mg | [Zn] | Zn
solvent | Et2O | CCOCC | C4H10O
product | (R)-3-hexyl-5,6-dihydro-4-hydroxy-6-undecyl-2H-pyran-2-one | 235 mg, 67% | C(CCCCC)C=1C(O[C@@H](CC1O)CCCCCCCCCCC)=O | C22H40O3
